US05530026
Preparation of 2-[3-(2-chloroethyl)ureido]fluorene
To a solution of 2 g of 2-aminofluorene in 125 mL of anhydrous ethyl ether is added dropwise 1.25 g of 2-chloroethyl isocyanate. This solution is stirred for 16 h at room temperature, cooled at -20° C., and filtered. A white solid separated and was recrystallized from ethanol (white flakes), yield 40%, mp 206°-208° C., IR (KBr pellet): 3300 (NH), 1730 (C=O, ester), and 1640 cm-1 (C=O, ureido); 1H NMR (DMSO-d6 : CDCl3): 8.08 ppm, 7.44 ppm, 7.35 ppm, 7.3 ppm, 7.27 ppm, 7.25 ppm, 7.16 ppm, 7.13 ppm, 7.02 ppm, 6.97 ppm, 6.96 ppm, 6.94 ppm, 6.93 ppm, 6.9 ppm, 6.87 ppm, 6.8 ppm, 3.5 ppm, 3.36 ppm, 3.33 ppm, 3.3 ppm, 3.25 ppm, 3.23 ppm, 3.2 ppm, 2.85 ppm.

reactant | 2-aminofluorene | 2 g | NC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H11N
reactant | 2-chloroethyl isocyanate | 1.25 g | ClCCN=C=O | C3H4ClNO
solvent | ethyl ether | 125 mL | C(C)OCC | C4H10O
product | 2-[3-(2-chloroethyl)ureido]fluorene | yield 40% | ClCCNC(NC1=CC=2CC3=CC=CC=C3C2C=C1)=O | C16H15ClN2O
